US08314138B2
Synthesis of 2-{1-[2-(4-fluoro-phenyl)amino-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester and 4-fluoro-phenylamine as describe in Example 77 and isolated as a white solid (0.032 g, 53% yield). 1H NMR (400 MHz, CDCl3) δ 8.63 (s, 1H), 8.56 (d, J=4 Hz, 1H), 7.72 (d, J=8 Hz, 1H), 7.39 (d, J=2 Hz, 1H), 7.28-7.34 (m, 1H), 6.89 (t, J=8 Hz, 2H), 6.83 (d, J=2 Hz, 1H), 6.51-6.56 (m, 2H), 6.09 (bs, 1H), 4.65 (d, J=8 Hz, 2H), 4.47 (t, J=6 Hz, 2), 3.58-3.63 (m, 2H), 2.76 (s, 3H); MS (M+H)+=436.9; Rt=1.20 min; HRMS (M+H)+=437.12.

reactant | methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester | CC=1N=C(SC1C(NCC=1C=NC=CC1)=O)C1=NN(C=C1)CCOS(=O)(=O)C | C17H19N5O4S2
reactant | 4-fluoro-phenylamine | FC1=CC=C(C=C1)N | C6H6FN
product | 2-{1-[2-(4-fluoro-phenyl)amino-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCNC1=CC=C(C=C1)F)C | C22H21FN6OS
